US08071773B2
h) tert-Butyl 2-benzyl-6-methylene-2,7-diazaspiro[4,5]decane-7-carboxylate
8.7 mmol of tert-butyl 2-benzyl-6-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate are dissolved in a mixture of 75 ml of toluene and 0.75 ml of pyridine. The solution is admixed with 10.0 mmol of bis(cyclopentadienyl)dimethyltitanium [1271-66-5] and heated at 70° C. for 20 hours. The reaction solution is evaporated and the residue is taken up in pentane. The mixture is filtered over Hyflo and the filtrate is evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60 F) on the basis of the Rf value.

reactant | tert-butyl 2-benzyl-6-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate | 8.7 mmol | C(C1=CC=CC=C1)N1CC2(CC1)C(N(CCC2)C(=O)OC(C)(C)C)=O | C20H28N2O3
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 0.75 ml | N1=CC=CC=C1 | C5H5N
catalyst | bis(cyclopentadienyl)dimethyltitanium | 10.0 mmol | C1(C=CC=C1)[Ti](C)(C)C1C=CC=C1
product | tert-Butyl 2-benzyl-6-methylene-2,7-diazaspiro[4,5]decane-7-carboxylate | C(C1=CC=CC=C1)N1CC2(CC1)C(N(CCC2)C(=O)OC(C)(C)C)=C | C21H30N2O2
